US06825191B2
Step 2 Synthesis of methyl 3-[((4-chlorobenzoyl)ethoxycarbonylmethylamino)-methyl]-4-aminobenzoate
2.2 g (6.14 mmol) of methyl 3-[(ethoxycarbonylmethylamino)-methyl]-4-nitrobenzoate was dissolved in 50 ml of dichloromethane. 4 mg (0.023 mmol) of 2-chloro-1,3-dimethylimidazonium chloride, 1.29 ml (9.2 mmol) of triethylamine and 1.16 g (7.3 mmol) of 4-chlorobenzoic acid were added to the obtained solution, and they were stirred overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 20 ml of ethyl acetate. 200 mg of 10% palladium/carbon was added to the obtained solution and they were stirred in the presence of hydrogen at room temperature for 5 hours. The reaction mixture was filtered through Celite and the solvent was evaporated to obtain the crude product.

reactant | methyl 3-[(ethoxycarbonylmethylamino)-methyl]-4-nitrobenzoate | 6.14 mmol, 2.2 g | C(C)OC(=O)CNCC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C13H16N2O6
reactant | triethylamine | 9.2 mmol, 1.29 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoic acid | 7.3 mmol, 1.16 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 200 mg | [Pd] | Pd
product | methyl 3-[((4-chlorobenzoyl)ethoxycarbonylmethylamino)-methyl]-4-aminobenzoate | ClC1=CC=C(C(=O)CCOC(=O)CNCC=2C=C(C(=O)OC)C=CC2N)C=C1 | C20H21ClN2O5
